US06169096A
6-[(4-chlorophenyl)(1-methyl-1H-imidazol-5-yl)methyl]-4-(3-ethoxyphenyl)-1-methyl-2(1H)-quinolinone monohydrochloride.
6-[amino(4-chlorophenyl)(1-methyl-1H-imidazol-5-yl)methyl]-4-(3-ethoxyphenyl)-1-methyl-2(1H)-quinolinone, 6-amino(4-chlorophenyl)(1-methyl-1H-imidazol-5-yl)methyl]-1-methyl-4-(3-propylphenyl)-2(1H)-quinolinone; a stereoisomeric form thereof or a pharmaceutically acceptable acid or base addition salt; and

reactant | 6-[amino(4-chlorophenyl)(1-methyl-1H-imidazol-5-yl)methyl]-4-(3-ethoxyphenyl)-1-methyl-2(1H)-quinolinone | NC(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)OCC)(C1=CN=CN1C)C1=CC=C(C=C1)Cl | C29H27ClN4O2
reactant | 1-methyl-4-(3-propylphenyl)-2(1H)-quinolinone | CN1C(C=C(C2=CC=CC=C12)C1=CC(=CC=C1)CCC)=O | C19H19NO
product | 6-[(4-chlorophenyl)(1-methyl-1H-imidazol-5-yl)methyl]-4-(3-ethoxyphenyl)-1-methyl-2(1H)-quinolinone monohydrochloride | Cl.ClC1=CC=C(C=C1)C(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)OCC)C1=CN=CN1C | InChI=1S/C29H26ClN3O2.ClH/c1-4-35-23-7-5-6-20(14-23)24-16-28(34)33(3)26-13-10-21(15-25(24)26)29(27-17-31-18-32(27)2)19-8-11-22(30)12-9-19;/h5-18,29H,4H2,1-3H3;1H
